US07491722B2
5-Acetyl-2-ethyl-4-[(3-methylcinnolin-5-yl)amino]-6-phenylpyridazin-3(2H)-one
To a stirred solution of 80 mg (0.278 mmol) of 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one (Dal Piaz, V et al, J. Med. Chem. 1997, 40, 1417) in 4 ml of ethanol, 66 mg (0.417 mmol) of 3-methylcinnolin-5-amine was added. The resulting mixture was stirred at room temperature for one day. The final product was collected by filtration and purified by column chromatography (silica gel, ethyl acetate/hexane 2:1) to yield the title compound (65 mg, 58.6% yield).

reactant | 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one | 0.278 mmol, 80 mg | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)[N+](=O)[O-] | C14H13N3O4
reactant | 3-methylcinnolin-5-amine | 0.417 mmol, 66 mg | CC=1N=NC=2C=CC=C(C2C1)N | C9H9N3
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 5-Acetyl-2-ethyl-4-[(3-methylcinnolin-5-yl)amino]-6-phenylpyridazin-3(2H)-one | 65 mg, 58.6% yield | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)NC1=C2C=C(N=NC2=CC=C1)C | C23H21N5O2
